US05807494
Two hundred grams of CB-A was added to a solution of 10.1 g sulfanilic acid and 6.23 g of concentrated nitric acid in 21 g of water. A solution of 4.87 g of NaNO2 in 10 g of water was added to the rapidly stirring mixture. 4-Sulfobenzenediazonium hydroxide inner salt is formed in situ, which reacts with the carbon black. After 15 minutes, the dispersion was dried in an oven at 125 C.

reactant | sulfanilic acid | 10.1 g | S(=O)(C1=CC=C(C=C1)N)(=O)O | C6H7NO3S
reactant | nitric acid | 6.23 g | [N+](=O)(O)[O-] | HNO3
reactant | NaNO2 | 4.87 g | N(=O)[O-].[Na+]
solvent | water | 21 g | O | H2O
solvent | water | 10 g | O | H2O
product | 4-Sulfobenzenediazonium hydroxide | [OH-].S(=O)(=O)(O)C1=CC=C(C=C1)[N+]#N | InChI=1S/C6H4N2O3S.H2O/c7-8-5-1-3-6(4-2-5)12(9,10)11;/h1-4H;1H2
